US04959361
5 6-(2-Chlorophenyl)-1-methyl-8-(3-phenoxy-1-propynyl)-4H-[1,2,4]triazolo [4,3-a][1,4]benzodiazepine
This compound was obtained by coupling 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with 1-phenoxy-2-propyne as described in example 1. Chromatographic isolation and crystallization from ethyl acetate gave colorless crystals with m.p. 160°-162° C.

reactant | 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12ClIN4
reactant | 1-phenoxy-2-propyne | O(C1=CC=CC=C1)CC#C | C9H8O
product | 6-(2-Chlorophenyl)-1-methyl-8-(3-phenoxy-1-propynyl)-4H-[1,2,4]triazolo [4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCOC3=CC=CC=C3)C(=NN2)C | C26H19ClN4O
